US04622164
A solution of 24.4 g of trans-1-p-propylphenyl-4-propylcyclohexane in 500 ml of ethanol is hydrogenated over 1 g of PtO2 for 1 hour at 60° and 100 bar, and the mixture is cooled, filtered and evaporated to give 4,4'-dipropylbicyclohexyl in the form of an oily mixture of isomers, which is taken up in 200 ml of boiling methanol. The resulting hot solution is poured into a boiling solution of 70 g of thiourea in 300 ml of methanol. The mixture is cooled to 0°, and the adduct which has been precipitated is filtered off and extracted by boiling with 300 ml of petroleum ether (b.p. 40°-60°). The undissolved residue is heated with 350 ml of 2N aqueous potassium hydroxide solution for 30 minutes at 50°. The solution is acidified with H2SO4 to give, after customary working up, trans,trans-4,4'-dipropylbicyclohexyl, c.p. 41°.

reactant | trans-1-p-propylphenyl-4-propylcyclohexane | 24.4 g | C(CC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C18H28
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | PtO2 | 1 g | O=[Pt]=O
product | 4,4'-dipropylbicyclohexyl | C(CC)C1CCC(CC1)C1CCC(CC1)CCC | C18H34
